US07635715B2
Step D: Preparation of 4-(7-Bromo-1-hydroxy-4,4-dimethyl-3-oxo-3,4-dihydronaphthalen-2-yl)-4-oxobutanoic acid
A solution of aqueous NaOH (5M, 2.0 mL) was added to a solution of methyl 4-(7-bromo-1-hydroxy-4,4-dimethyl-3-oxo-3,4-dihydronaphthalen-2-yl)-4-oxobutanoate (0.061 g, 0.16 mmol) in THF (1.5 mL). The mixture was stirred for 15 minutes at room temperature, diluted with DCM, and extracted with water. The water phase was acidified to pH=1 using aqueous HCl (5M) and extracted with EtOAc. The combined organic layers were dried over MgSO4 and evaporated. The product was rinsed with diethyl ether and dried to afford the title compound in 31% yield. 1H-NMR (300 MHz, DMSO-d6) δ ppm 12.19 (1H, br. s.), 8.17, 8.16 (1H, 2 s), 7.91-7.88 (1H, m), 7.75-7.72 (1H, m), 3.45-3.35 (2H, m, partially covered by HDO signal), 2.60-2.56 (2H, m), 1.54 (6H, br. s.). MS m/z: 368 (M+).

reactant | NaOH | 5M, 2.0 mL | [OH-].[Na+]
reactant | methyl 4-(7-bromo-1-hydroxy-4,4-dimethyl-3-oxo-3,4-dihydronaphthalen-2-yl)-4-oxobutanoate | 0.16 mmol, 0.061 g | BrC1=CC=C2C(C(C(=C(C2=C1)O)C(CCC(=O)OC)=O)=O)(C)C | C17H17BrO5
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-(7-Bromo-1-hydroxy-4,4-dimethyl-3-oxo-3,4-dihydronaphthalen-2-yl)-4-oxobutanoic acid | 31% yield | BrC1=CC=C2C(C(C(=C(C2=C1)O)C(CCC(=O)O)=O)=O)(C)C | C16H15BrO5
